US07601702B2
2,2,2-Triphenylethanol (38)
To a suspension of LAH (3.9 g, 0.104 mol) in dry THF (200 mL) was stirred at 0° C. for 20 min. A solution of 2,2,2-triphenylacetic acid (10 g, 0.034 mol) in dry THF (50 mL) was added in a drop-wise manner. The reaction mixture was stirred at RT overnight. Excess LAH was quenched with 1.5 N HCl and the reaction mixture was further stirred for 2 h at RT. The reaction mixture was filtered through celite, washed with ethyl acetate and the filtrate was concentrated under vacuum. The crude product was purified by column chromatography on silica gel (4% ethyl acetate in pet ether) to give the title compound (4.6 g, 48%). TLC: Pet. ether/EtOAc, 7:3, Rf=0.2

reactant | LAH | 0.104 mol, 3.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,2,2-triphenylacetic acid | 0.034 mol, 10 g | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2,2,2-Triphenylethanol | 4.6 g, 48% | C1(=CC=CC=C1)C(CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H18O
